US08026234B2
Ethyl 3-((2-chloro-5-nitropyrimidin-4-yl)(cyclohexyl)amino)-2-fluoro-2-methylpropanoate:
To a solution of 2,4-dichloro-5-nitropyrimidine (970 mg, 5 mmol) in anhydrous acetone (20 ml) at 0° C., was added dropwise a solution of ethyl 3-(cyclohexylamino)-2-fluoro-2-methylpropanoate (1.1 g, 4.76 mmol) in acetone (5 mL) over 10 min. After which, potassium carbonate (1.66 g, 12 mmol) was added and the whole was stirred at rt for 18 h. After evaporation in vacuo, the residue was partitioned between ethyl acetate (200 ml) and water (200 ml). The organic layer was washed with NaHCO3, brine and water, dried over Na2SO4 and concentrated in vacuo to give a red residue (1.9 g) which was used directly for next step. [M+H] calc'd for C16H22ClFN4O4, 389. found 389.

reactant | 2,4-dichloro-5-nitropyrimidine | 5 mmol, 970 mg | ClC1=NC=C(C(=N1)Cl)[N+](=O)[O-] | C4HCl2N3O2
reactant | ethyl 3-(cyclohexylamino)-2-fluoro-2-methylpropanoate | 4.76 mmol, 1.1 g | C1(CCCCC1)NCC(C(=O)OCC)(C)F | C12H22FNO2
reactant | potassium carbonate | 12 mmol, 1.66 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 20 ml | CC(=O)C | C3H6O
solvent | acetone | 5 mL | CC(=O)C | C3H6O
product | Ethyl 3-((2-chloro-5-nitropyrimidin-4-yl)(cyclohexyl)amino)-2-fluoro-2-methylpropanoate | 1.9 g | ClC1=NC=C(C(=N1)N(CC(C(=O)OCC)(C)F)C1CCCCC1)[N+](=O)[O-] | C16H22ClFN4O4
